Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Ampicillin
 
Attending: ___.
 
Chief Complaint:
Found down 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old male with h/o hepatitis C and head and neck CA 
currently receiving chemo and radiation was found by his sister 
today to be confused and complaining of chest pain. He went to 
an OSH where he was found to have a platelet count of 7, lactate 
of 11.3, and WBC of 11.5 with 9% bands. He was moving all 
extremities but was lethargic. He had a fever and was given 1 
gram of vancomycin and 100mg of Gent for presumed sepsis. His 
head CT revealed right SAH. CT torso revealed a splenic infarct 
as well as infarct of the mesenteric vessels. The patient was 
transferred to ___ for further evaluation. He was given 
dilaudid 1mg IV x1 prior to transfer.  
.
In the ED at ___, patient was intubated on arrival for 
tachypnea to the ___. Repeat CT head showed parietal and 
temporal SAH, stable since OSH imaging. CT torso showed 
splenomegaly and wedge shaped infarcts in the the spleen and 
kidneys. Given platelets of 7, INR 1.9 and petachaie on exam, 
patients as presumed to be in DIC. Max temperature during ED 
course was temp of 104. Surgery was consulted and felt that 
patient was not an operative candidate. Neurosurgery evaluted 
the patient and advised transfusing platelets to 50, transfusing 
FFP to INR 1.4, Q1H neuro checks, and repeat head CT in the AM. 
In the Ed he received 2 units of FFP, 2 bags of platelets, 
gentamycin 100 mg IVx1, Flagyl 500 mg IVx1, cefepime 2g IVx1, 
vancomycin 1 g IV x1, thiamine 100 mg IV x1, and vigorous fluid 
resusciataion with 5L NS.  
.
On the floor, patient appears comfrotable breathing on the 
ventilator. 

 
Past Medical History:
# Hepatitis C, 
# Head and neck cancer, with likely lung involvement - currently 
receiving chemo and radiation
# neuropathy, 
# Charcot ___ tooth, 
# History of heroin abuse, 
# ? staph sepsis,
# pancytopenia, 
# lumbar back pain

 
Social History:
___
Family History:
mother breast ca

 
Physical Exam:
Vitals: T: 98.5 BP: 98/61 P: 93 R: 18 O2: 97%   
AC 530 x 12 PEEP 5 FIO2 50%
CVP 12
General: Intubated, appears comfortable 
HEENT: Sclera anicteric, MMM, oropharynx clear, pupils reactive 
3->2 bilaterally 
Neck: supple, JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen:  soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
SKIN: bilateral ___ 
Ext: warm, well perfused, 2+ pulses, no clubbing, but 1+ 
bilateral pedal edema 

 
Pertinent Results:
CT HEAD 
FINDINGS: Again seen is subarachnoid hemorrhage along the right 
hemisphere.  This is stable in extent since the previous study. 
Within the left thalamus, there is a round focus of 
hypoattenuation with a lateral curvilinear focus of 
hyperattenuation, which is slightly increased in size since the 
previous study. This may just represent extension of 
subarachnoid hemorrhage around a 
perivascular space or extension superiorly from the choroidal 
fissure. 
Additional areas of subarachnoid hemorrhage are noted along the 
superior left parietal and frontal lobes, stable. No clear 
intraparenchymal hemorrhage is noted.  
  
The ventricles and sulci are normal in size and configuration. 
There is no 
significant mass effect. The gray-white matter differentiation 
is preserved.  There are secretions noted within the 
nasopharynx. The visualized paranasal sinuses and mastoid air 
cells are clear. No fractures are identified. 
  
IMPRESSION: Stable appearance of right-sided subarachnoid 
hemorrhage along 
the entire right hemisphere. Smaller areas of left-sided 
subarachnoid 
hemorrhage also relatively stable. No evidence of 
intraparenchymal 
hemorrhage. 
.
.
.
CT OF THE CHEST WITH CONTRAST: 
Evaluation is limited due to the respiratory 
motion throughout the entire exam. Evaluation for pulmonary 
embolism is 
especially limited given motion and timing of contrast bolus. 
However, there are no large main pulmonary artery pulmonary 
embolisms. 
  
Multiple small pulmonary nodules are noted bilaterally in a far 
peripheral 
distribution measuring up to 9 x 5 mm (4:92). There is no 
pneumothorax or 
focal areas of consolidation. The heart size is normal. There is 
no 
pericardial effusion. There is no hilar, mediastinal or axillary 

lymphadenopathy. There is no aortic dissection. Gynecomastia is 
present. 
  
CT OF THE ABDOMEN WITH IV CONTRAST: The spleen is massively 
enlarged.  
Multiple areas of wedge-shaped hypoattenuated defects are 
present, most 
consistent with multiple splenic infarcts. Similarly, the 
kidneys bilaterally 
also demonstrate multiple peripheral wedge-shaped areas of 
hypoattneuation. 
  
The adrenal glands, pancreas, liver, and gallbladder are 
unremarkable. The 
intra-abdominal loops of small bowel are collapsed. There is no 
free air or 
free fluid. There is no retroperitoneal or mesenteric 
lymphadenopathy. 
  
CT OF THE PELVIS WITH IV CONTRAST: A Foley catheter is noted 
within a 
decompressed bladder. The prostate and rectum are within normal 
limits.  
There is apparent bowel wall thickening of the colon, from cecum 
to sigmoid 
colon. A small amount of free fluid is noted within the pelvis. 
There is no 
pelvic or inguinal lymphadenopathy. The arterial vasculature 
appears normal 
without evidence of vasculopathy. Although evaluation is limited 
as this is 
not an arterially timed phase and there is significant motion 
artifact, no 
occlusion is noted within the visualized abdominal and pelvic 
vasculature. 
  
BONE WINDOWS: Degenerative changes are noted throughout the 
visualized spine, 
most prominent at L5-S1. Mild anterior loss of height of T11 and 
T12 of 
unknown chronicity. 
  
IMPRESSION:  
1. Multiple, small, peripheral nodules within the lungs. Given 
appearance 
and distribution of these nodules, diagnostic consideration 
favors septic 
emboli. 
  
2. Multiple areas of wedge-shaped hypoenhancement within the 
kidneys 
bilaterally and throughout the markedly enlarged spleen. These 
findings are 
concerning for infarcts in the kidneys bilaterally and spleen.  
  
3. Given findings in items number 1 and 2, septic emboli causing 
infarcts is 
a possibility. Further evaluation for a right to left cardiac 
shunt with 
echocardiography is recommended.  
  
4. Thickening of the ascending colonic wall, concerning for an 
infectious or 
ischemic process.  
.
.
.
TTE
The left atrium is mildly dilated. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) are mildly thickened but aortic stenosis is not present. 
There is a moderate-sized (1.4cm x 0.9 cm) vegetation on the 
aortic valve. Mild (1+) aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. No mass or vegetation is 
seen on the mitral valve. Mild mitral regurgitation is seen. The 
tricuspid valve leaflets are mildly thickened. There is a 
moderate vegetation (1.2 cm x 0.9 cm) on the tricuspid valve. 
Moderate [2+] tricuspid regurgitation is seen. There is mild 
pulmonary artery systolic hypertension. 

IMPRESSION: Moderate aortic valve vegetation and tricuspid valve 
vegetation. Normal biventricular systolic function
.
.
ABDOMINAL U/S:  
1. Stable appearance of the liver with no new intra- or 
extra-hepatic biliary 
dilatation. Known cirrhosis. 
  
2. Stable perihepatic ascites and massive splenomegaly measuring 
up to 20.6 cm. 
.
TTE (___) 
Left ventricular wall thickness, cavity size, and global 
systolic function are normal (LVEF>55%). Due to suboptimal 
technical quality, a focal wall motion abnormality cannot be 
fully excluded. The aortic valve leaflets are mildly thickened 
(?#). There is a moderate-sized vegetation (1.0 cm long) on the 
aortic valve. Mild (1+) aortic regurgitation is seen. There is a 
modreate to large vegetation (1.7 cm long) on the tricuspid 
valve. Moderate to severe [3+] tricuspid regurgitation is seen. 
There is moderate pulmonary artery systolic hypertension. There 
is no pericardial effusion. 

Compared with the prior study (images reviewed) of ___, 
the degree of TR and pulmonary hypertension detected have 
increased. The valve vegetations appear similar. If indicated, a 
TEE would better characterize the valvular vegetations.  

PORTABLE ABDOMINAL US ___: CLINICAL HISTORY: Clostridium 
difficile, evaluate for megacolon. Gas is seen within the 
stomach and a nasogastric tube is present. Some air is present 
within the transverse colon and the ascending colon. There is no 
evidence of bowel distention. IMPRESSION: No bowel distention. 

CXR ___: FINDINGS: As compared to the previous radiograph, 
the monitoring and support devices are in unchanged position. On 
today's image, a part of the lateral left hemithorax is missing. 
There is no evidence of focal parenchymal opacities suggesting 
pneumonia. The pre-existing areas of atelectasis have mostly 
cleared. No evidence of newly appeared focal parenchymal 
opacities suggesting pneumonia. Borderline size of the cardiac 
silhouette. No evidence of larger pleural effusions 

 
Brief Hospital Course:
___ year old male with h/o hepatitis C and head and neck CA was 
found by his sister to be confused and complaining of chest pain 
found to have endocarditis (aortic, tricuspid), MSSA Bacteremia, 
SAH, multiple septic infarcts to brain, liver, spleen, kidneys 
with hospital course complicated by DIC, acute renal failure 
requiring CVVH, and C.difficile associated disease, spontaneous 
bacterial peritonitis.  
.
# ENDOCARDITIS, SEPSIS, SEPTIC EMBOLI: He was admitted to the 
MICU for further management. Blood cultures were sent and he was 
emperically started on broad spectrum antibiotics.  He was given 
IV fluids to maintain a CVP of ___.  Cultures grew out MSSA. 
His antibiotics were changed to Nafcillin and the Infectious 
Disease service was consulted.  Trans-thoracic echo confirmed 
aortic and tricuspid valve vegetations. The CT surgery team was 
consulted but no surgical management was undertaken. Imaging 
demonstrated multiple infarcts in the spleen, kidneys, lungs, 
liver, and brain consistent with septic emboli. The patient 
develpoed renal failure (see below) Repeat TTE one week after 
the initial ultrasound demonstrated new severe tricuspid 
regurgitation. EKG was checked daily to monitor for PR 
prolongation, which remained stable. Repeat cultures following 
treatment for MSSA bacteremia were negative. Ultimately, the 
patient developed renal failure and liver failure. Given the 
patient's multi-organ decline and poor prognosis a family was 
held and the patient was made CMO. He was taken off the 
ventilator and CVVH was held. He expired within two days of his 
family's decision to make him CMO.
.
# ACUTE RENAL FAILURE. He developed anuric acute renal failure 
likely from combination of sepsis in low flow state with 
third-spacing, multiple likely septic renal infarcts, and 
possibly possible dye load. The renal service was consulted. He 
was started on CVVH. Medications were renally dosed. Nephrotoxic 
medications were held. Despite this he remained anuric with 
deterioratig renal function. Given the patient's multi-organ 
decline and poor prognosis a family was held and the patient was 
made CMO. CVVH was stopped at that time.
.
# LIVER FAILURE. The patient has known underlying liver disease 
secondary to HCV and alcoholism. Over the course of this 
admission, INR and bilirubin continued to trend up, until MELD 
was > 30 near the time of his demise. He was not considered a 
transplant candidate given his ongoing substance abuse problems 
and active infection.
.
# DIC: Likely in the setting of sepsis, but also in the setting 
of malignancy. There was no evidence of acute bleeding. DIC labs 
were monitored twice daily. Given the patient's multi-organ 
decline and poor prognosis a family was held and the patient was 
made CMO. 
. 
#SBP: He underwent a paracetntesis with cell count consistent 
with SBP. He was started on zosyn and ciprofloxacin with plans 
for a 14 day course. 
.
#C.DIFF ASSOCIATED DISEASE: He complained of abdominal pain and 
had bowel wall thickening on imaging. Stool was found to be 
positive for C-diff shortly before he passed away despite 
multiple negative prior stool studies. He was started on PO 
vancomycin and IV Flagyl. 
.
# SAH/?left basal infarct: The patient was noted to have small 
SAH on imaging. It was not clear whether this may have occurred 
in the setting of a fall. Neuro exam was nonfocal, and CT was 
unchanged between here and OSH where SAH was originally noted. 
Repeat imaging on ___ showing continued interval slight 
decrease in density of SAH since earlier in the day. No aneursym 
was seen. Neurosurgery was consulted and initially angiogram was 
planned; however, given the patient's poor functional status and 
coagulopathy/DIC, risks were felt to outweigh benefits and the 
procedure was never done.
.
NSTEMI. The patient developed troponin leak in the setting of 
respiratory distress/agitation. This was felt to be most likely 
related to demand ischemia.

 
Medications on Admission:
methadone 10 BID
? colace
?oxycodone 15mg ___ tab QID,
 
Discharge Medications:
Deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Deceased
 
Discharge Condition:
deceased
 
Discharge Instructions:
deceased
 
Followup Instructions:
___